US04223033
The acid chloride of 2-(2-naphthyl)-3-methylbutanoic acid is reacted with [6-(4-fluorophenoxy)-2-pyridyl]methanol using the procedure of Example 1 to give [6-(4-fluorophenoxy)-2-pyridyl]methyl 2-(2-naphthyl)-3methylbutanoate.

reactant | 2-(2-naphthyl)-3-methylbutanoic acid | C1=C(C=CC2=CC=CC=C12)C(C(=O)O)C(C)C | C15H16O2
reactant | [6-(4-fluorophenoxy)-2-pyridyl]methanol | FC1=CC=C(OC2=CC=CC(=N2)CO)C=C1 | C12H10FNO2
product | [6-(4-fluorophenoxy)-2-pyridyl]methyl 2-(2-naphthyl)-3methylbutanoate | C1=C(C=CC2=CC=CC=C12)C(C(=O)OCC1=NC(=CC=C1)OC1=CC=C(C=C1)F)C(C)C | C27H24FNO3
